Resistive load NMOS inverter
vin 1 0 pwl 0 0.0 2ns 5
vdd 3 0 dc 5.0
rd 3 2 2.5k
m1 2 1 4 5 mmod w=10um
cl 2 0 2pf
vb 5 0 0
vs 4 0 0

.model mmod numos
+ x.mesh l=0.0 n=1
+ x.mesh l=0.6 n=4
+ x.mesh l=0.7 n=5
+ x.mesh l=1.0 n=7
+ x.mesh l=1.2 n=11
+ x.mesh l=3.2 n=21
+ x.mesh l=3.4 n=25
+ x.mesh l=3.7 n=27
+ x.mesh l=3.8 n=28
+ x.mesh l=4.4 n=31
+
+ y.mesh l=-.05 n=1
+ y.mesh l=0.0  n=5
+ y.mesh l=.05  n=9
+ y.mesh l=0.3  n=14
+ y.mesh l=2.0  n=19
+
+ region num=1 material=1 y.l=0.0
+ material num=1 silicon
+ mobility material=1 concmod=sg fieldmod=sg
+ mobility material=1 elec major
+ mobility material=1 elec minor
+ mobility material=1 hole major
+ mobility material=1 hole minor
+
+ region num=2 material=2 y.h=0.0 x.l=0.7 x.h=3.7
+ material num=2 oxide
+
+ elec num=1 x.l=3.8 x.h=4.4	y.l=0.0 y.h=0.0
+ elec num=2 x.l=0.7 x.h=3.7	iy.l=1  iy.h=1
+ elec num=3 x.l=0.0 x.h=0.6	y.l=0.0 y.h=0.0
+ elec num=4 x.l=0.0 x.h=4.4	y.l=2.0 y.h=2.0
+
+ doping unif p.type conc=2.5e16 x.l=0.0 x.h=4.4  y.l=0.0 y.h=2.0
+ doping unif p.type conc=1e16   x.l=0.0 x.h=4.4  y.l=0.0 y.h=0.05
+ doping unif n.type conc=1e20   x.l=0.0 x.h=1.1  y.l=0.0 y.h=0.2
+ doping unif n.type conc=1e20   x.l=3.3 x.h=4.4  y.l=0.0 y.h=0.2
+
+ models concmob fieldmob
+ method ac=direct onec

.tran 0.2ns 30ns
.options acct bypass=1
.print tran v(1) v(2)
.end
