Gallium Arsenide Resistor

* This transient simulation demonstrates the effects of velocity overshoot
* and velocity saturation at high lateral electric fields.
* Do not try to do DC analysis of this resistor. It will not converge
* because of the peculiar characteristics of the GaAs velocity-field
* relation.  In some cases, problems can arise in transient simulation
* as well.

VPP 1 0 1v PWL 0s 0.0v 10s 1v
VNN 2 0 0.0v 
D1 1 2 M_RES AREA=1

.MODEL M_RES numd level=1
+ options resistor defa=1p
+ x.mesh loc=0.0 num=1
+ x.mesh loc=1.0 num=101
+ domain   num=1 material=1
+ material num=1 gaas
+ doping unif n.type conc=2.5e16
+ models fieldmob srh auger conctau
+ method ac=direct

*.OP
*.DC VPP 0.0v 10.01v 0.1v
.TRAN 1s 10.001s 0s 0.1s
.PRINT TRAN I(VPP)

.OPTION ACCT BYPASS=1
.END
