  ADDER - 4 BIT ALL-74HC00-GATE BINARY ADDER WITH AUTOMATIC BRIDGING
  * behavioral gate description
  * Automatic A/D insertion using bi-directional bridges

* The NAND gates in the adder have a "family" parameter that determines
* the A/D and D/A bridges that are inserted.  For A/D a subcircuit is
* used, defined by the file bridge_demo_family_d_in.subcir.  For D/A
* the following interpreter variable sets up the bridges with non-default
* output levels.

.control
pre_set auto_bridge_demo_family_d_out =
+ ( ".model auto_da dac_bridge(out_high='%g-0.7' out_low=0.9 )"
+   "auto_bridge%d [ %s ] [ %s ] auto_da" 1000 )
.endc

.param vcc=5 tripdt=6n

*
* 2-input NAND gate
* vcc 2 /4.5/5 /6
* tpd 25n/9n/7n/7n
* tr 19n/7n /  /6n

*** Subcircuit definition: copy of 74HCng_auto.lib with "family" parameter

.SUBCKT 74HC00  in1 in2 out  NVCC NVGND  vcc1={vcc} tripdt1={tripdt}
.param td1={1e-9*(9-3-3)*4.0/(vcc1-0.5)}
.param Rout={60*4.0/(vcc1-0.5)} ; standard output driver

a6 [in1 in2] dout nand1

.model nand1 d_nand(rise_delay = {td1} fall_delay = {td1}
+ input_load = 0.5e-12) family="demo_family"

Rout dout out {Rout}
.ends

.param vcc=3 tripdt=6n

.include ../adder_common.inc

.END
